US06184180B2
Synthesis of 11-(p-hydroxyphenoxy)undecanoic acid
In a 500 ml flask equipped with a stirrer and a condenser were charged 32.2 g of ethyl 11-(p-hydroxyphenoxy)undecanoate synthesized in Synthetic example 2, 100 g of a 10% aqueous sodium hydroxide solution and 100 ml of ethanol, and the mixture was refluxed for 2 hours. After completion of the reaction, the reaction mixture was concentrated, poured into 600 ml of a 2% aqueous hydrochloric acid solution and precipitated crystals were collected by filtration. The resulting crystals were washed with distilled water and recrystallized from acetonitrile to obtain 20.2 g of the title compound.

reactant | ethyl 11-(p-hydroxyphenoxy)undecanoate | 32.2 g | OC1=CC=C(OCCCCCCCCCCC(=O)OCC)C=C1 | C19H30O4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 11-(p-hydroxyphenoxy)undecanoic acid | 20.2 g | OC1=CC=C(OCCCCCCCCCCC(=O)O)C=C1 | C17H26O4
